US07713994B2
6-Furan-2-yl-4-[(5-hydroxy-2-iodo-benzylamino)-methylene]-4H-isoquinoline-1,3-dione
Following the same procedure for the preparation of 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione, the title compound is prepared from 6-Furan-2-yl-4-methoxymethylene-4H-isoquinoline-1,3-dione (400 mg, 1.5 mmol) and 3-Aminomethyl-4-iodo-phenol (400 mg, 1.61 mmol) in 77% yield: MS (ESI): 485.1 (M−1)−1.

reactant | 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | OC1=C(C=CC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C1=CC=CC=C1 | C23H17IN2O3
reactant | 6-Furan-2-yl-4-methoxymethylene-4H-isoquinoline-1,3-dione | 1.5 mmol, 400 mg | O1C(=CC=C1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C15H11NO4
reactant | 3-Aminomethyl-4-iodo-phenol | 1.61 mmol, 400 mg | NCC=1C=C(C=CC1I)O | C7H8INO
product | 6-Furan-2-yl-4-[(5-hydroxy-2-iodo-benzylamino)-methylene]-4H-isoquinoline-1,3-dione | 77% yield | O1C(=CC=C1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC1=C(C=CC(=C1)O)I | C21H15IN2O4
